US04894386
A mixture of E-indole-6-acrylic acid (0.96 g), 4-dimethylaminopyridine (0.635 g), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.96 g) was dissolved in methylene chloride (50 ml) and N,N-dimethylformamide (60 ml) and stirred for 1 hour. Propylamine (0.591 g) was added and stirring continued for 18 hr. Further quantities of 4-dimethylaminopyridine (0.635 g), the carbodiimide (0.96 g) and propylamine (0.591 g) were added; and the mixture stirred for a further 30 hr. The solvents were evaporated; the residue partitioned between ethyl acetate and 1M hydrochloric acid; and the organic phase washed with water and brine; dried (MgSO4); and evaporated. The residue was purified by flash chromatography, eluting with 1:10 methanol:chloroform, to give E-N-propylindole-6-acrylamide (0.7 g, 60%) as an off-white solid; partial NMR (250 MHz, DMSO-d6): 0.89(t, 3H, CH2CH2CH3, 1.48(m, 2H, CH2CH2CH3), 3.15(m, 2H, CH2CH2CH3); 6.44(d, J=2.8 Hz H3 -indole), 6.55(d, J=15.7 Hz, 1H, olefinic H), 8.00(br t, 1H, NHCO), 11.28(br s, 1H, H1 -indole).

reactant | E-indole-6-acrylic acid | 0.96 g | N1C=CC2=CC=C(C=C12)/C=C/C(=O)O | C11H9NO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.96 g | Cl.CN(CCCN=C=NCC)C
reactant | Propylamine | 0.591 g | C(CC)N | C3H9N
reactant | carbodiimide | 0.96 g | N=C=N | CH2N2
reactant | propylamine | 0.591 g | C(CC)N | C3H9N
catalyst | 4-dimethylaminopyridine | 0.635 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.635 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | E-N-propylindole-6-acrylamide | 0.7 g, 60% | C(CC)NC(\C=C\C1=CC=C2C=CNC2=C1)=O | C14H16N2O
